US08242145B2
Step 3: {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid
(3-{2-[(2-Hydroxy-ethylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid (0.15 g, 0.41 mmol), N,N′-carbonyldiimidazole (0.1 g, 0.61 mmol), and diisopropylethylamine (1 mL) were combined in 1,4-dioxane (5 mL) and stirred at 70° C. for 2 hours. The mixture was concentrated and purified by preparative HPLC to give the desired product (0.01 g).

reactant | (3-{2-[(2-Hydroxy-ethylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid | 0.41 mmol, 0.15 g | OCCNCC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C18H18F3NO4
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid | 0.01 g | O=C1OCCN1CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C19H16F3NO5
